US06965048B2
A solution of 20 g (77.7 mmol) of BOC-tranexamic acid in 162 mL of DMA and 320 mL of THF was cooled to 0° C. and treated with 7.46 g (170.99 mmol, 2.2 eq) of NaH (55% in oil) over 30 min. The mixture was warmed to RT, cooled to 0° C. again and treated with 77.42 mL (1243 mmol, 16 eq) of CH3I and warmed to RT overnight. 230 mL (2487.1 mmol, 32 eq) of aqueous 32% NaOH were added at 0° C., the solution was stirred for 1 h at RT and partitioned between Et2O (×3)/H2O. The organic phase was evaporated to remove the DMA. The residue was dissolved in 100 mL of dioxane and treated with 233 mL (233 mmol) of aqueous 1M NaOH at RT, and the solution was stirred overnight. The reaction was partitioned between Et2O (×3)/H2O, the aqueous phase was acidified with aqueous 10% KHSO4 and partitioned between Et2O (×3), washed once with aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 19.2 g (87%) of trans-4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-cyclohexane-carboxylic acid, MS: 270 (M−H−).

reactant | BOC-tranexamic acid | 77.7 mmol, 20 g | CC(C)(C)OC(=O)NCC1CCC(CC1)C(=O)O | C13H23NO4
reactant | NaH | 170.99 mmol, 7.46 g, 2.2 eq | [H-].[Na+]
reactant | CH3I | 1243 mmol, 77.42 mL, 16 eq | CI | CH3I
reactant | NaOH | [OH-].[Na+]
solvent | DMA | 162 mL | CC(=O)N(C)C | C4H9NO
solvent | THF | 320 mL | C1CCOC1 | C4H8O
product | trans-4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-cyclohexane-carboxylic acid | 19.2 g, 87% | C(C)(C)(C)OC(=O)N(C)C[C@@H]1CC[C@H](CC1)C(=O)O | C14H25NO4
